US07378415B2
A mixture of 7-benzenesulfonyl-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine (0.257 g., 0.847 mmol) and 4-bromopyridinium chloride (0.658 g., 3.388 mmol) was heated without solvent at 185° C. for 45 minutes. The reaction mixture was cooled to room temperature, suspended in 5 mL dichloromethane and concentrated in vacuo. The resulting crude oil was dissolved in a mixture of 50 mL ethyl acetate and 50 mL water. The aqueous layer was made strongly basic with 50 mL of 2N aqueous potassium carbonate, and the phases were separated. The organic phase was washed with twice with 50 mL water and once with 50 mL brine, dried over sodium sulfate and concentrated in vacuo. The resulting crude oil was purified by flash chromatography (3% methanol in dichloromethane) to give 161 mg (54%) of 7-benzenesulfonyl-2,2-dimethyl-4-pyridin-4-yl-3,4-dihydro-2H-benzo[1,4]oxazine as a foam. MS: 381 (M+H)+, mp: 112.7-120.4° C. (as hydrochloride salt).

reactant | 7-benzenesulfonyl-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine | 0.847 mmol, 0.257 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(NCC(O2)(C)C)C=C1 | C16H17NO3S
reactant | 4-bromopyridinium chloride | 3.388 mmol, 0.658 g | [Cl-].BrC1=CC=[NH+]C=C1
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 7-benzenesulfonyl-2,2-dimethyl-4-pyridin-4-yl-3,4-dihydro-2H-benzo[1,4]oxazine | 161 mg, 54% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CC(O2)(C)C)C2=CC=NC=C2)C=C1 | C21H20N2O3S
